US06559161B1
1,4-Dimethoxy-9-trifluoromethylsulfonyloxyacridine
To a solution of 1,4-dimethoxyacridine (prepared as described in Ionescu and Mester (1969)) (1.0 g, 3.9 mmol) in dry CH2Cl2 (18 ml) under N2 were successively added DMAP (95 mg, 0.8 mmol), 2,6-lutidine (0.6 ml, 55 mmol) and trifluoromethane-sulfonic anhydride (0.8 ml, 4.7 mmol) and the reaction mixture was stirred at 0° C. for 2 h and then for 1 h at rt. The solution was washed with H2O, dried and evaporated. The residue was purified by column chromatography when elution with hexane/CH2Cl2 (1:1) to give the title compound (1.3 g, 87%), as a yellow solid. IR (KBr): ν/cm−1=1253 (s, SO), 1030 (s, SO); 1H NMR (200 MHz, CDCl3): δH/ppm=4.04 (s, 3H, OCH3), 4.14 (s, 3H, OCH3), 6.83 (d, J=8.4 Hz, 1H, H-2), 7.01 (d, J=8.4 Hz, 1H, H-3), 7.68 (dd, J=8.5 and 7.8 Hz, 1H, H-7), 7.86 (dd, J=8.5 and 7.8 Hz, 1H, H-6), 8.22 (d, J=8.5 Hz, 1H, H-5), 8.43 (d, J=8.5 Hz, 1H, H-8); 13C NMR (50.3 MHz, CDCl3): δC/ppm=55.2 (q, OCH3) 56.3 (q, OCH3), 104.2 (d, C-2), 106.6 (d, C-3), 113.3 (s, C-9a), 118.5 (q, CF3), 119.1 (s, C-8a), 120.7 (d, C-7), 122.5 (s, C-4a), 127.6 (d, C-6), 129.8 (d, C-8), 130.9 (d, C-5), 144.2 (s, C-10a), 147.2 (s, C-1), 148.7 (s, C-4), 148.8 (s, C-9); MS (EI); m/z (%)=388 [M+1] (9), 387 [M+] (42), 254 (100), 226 (69); HRMS: calcd. for C16H12F3NO5S 387.0388; found 387.0394.

reactant | 1,4-dimethoxyacridine | 3.9 mmol, 1.0 g | COC1=CC=C(C2=NC3=CC=CC=C3C=C12)OC | C15H13NO2
reactant | 2,6-lutidine | 55 mmol, 0.6 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethane-sulfonic anhydride | 4.7 mmol, 0.8 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 18 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.8 mmol, 95 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1,4-Dimethoxy-9-trifluoromethylsulfonyloxyacridine | 1.3 g, 87% | COC1=CC=C(C2=NC3=CC=CC=C3C(=C12)OS(=O)(=O)C(F)(F)F)OC | C16H12F3NO5S
